* C:\Users\DG Maintenance\Documents\optirev2\LTSpice\Draft4.asc
R1 N005 N004 220k
C1 N004 N002 22n
C2 N003 N004 68n
R2 N003 N002 100k
XU1 N006 N001 +12 -12 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N002 N001 100k
R4 N001 0 10k
R5 N009 N004 2k2
R6 N010 N009 47k
C3 N011 N009 10n
R7 N011 N010 100k
R8 N011 N010 100k
XU2 0 N005 +12 -12 N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C4 N007 N010 1n
R9 N008 N011 2k2
R10 N008 N007 220k
V1 +12 0 12
V2 -12 0 -12
V3 N006 0 SINE(0 1 1K) AC 1
.ac dec 20 10 20k
.lib UniversalOpAmp1.lib
.backanno
.end
